US08445729B2
A solution of 10 mL of sec-butylbenzene (64.3 mmoles), 3.75 mL of acetonitrile and 0.64 mmoles of N-hydroxyphthalimide is stirred at 70° C. for 24 hours in an atmosphere of oxygen at a pressure of 1 bar. 1H-NMR analysis of the reaction mixture showed a secbutylbenzene conversion of 20% with a selectivity in sec-butyl hydroperoxide of 89% (result confirmed by iodometric titration) and 11% of acetophenone. The acetonitrile is removed by distillation and 0.57 mmoles of N-hydroxyphthalimide are recovered.

reactant | sec-butylbenzene | 64.3 mmoles, 10 mL | C(C)(CC)C1=CC=CC=C1 | C10H14
reactant | acetonitrile | 3.75 mL | C(C)#N | C2H3N
reactant | N-hydroxyphthalimide | 0.64 mmoles | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | oxygen | O=O | O2
solvent | sec-butyl hydroperoxide | C(C)(CC)OO | C4H10O2
product | acetophenone | 11% | C(C)(=O)C1=CC=CC=C1 | C8H8O
